US04927819
Step B 3-Bromo-5-hydroxymethyl-dibenzo[a,d]cycloheptene
To a solution of 3-bromo-5-methylene-dibenzo[a,d]cycloheptene (3.8 g) in dry tetrahydrofuran (20 ml). under an inert atmosphere. was added 9-borabicyclo [3.3,1 ]nonane (30 ml of a 0.5 molar solution in tetrahydrofuran) at ambient temperature and the reaction mixture was refluxed for 3 h. After cooling in an ice bath the reaction was quenched by the slow addition of 2N sodium hydroxide solution (100 ml) and 30% hydrogen peroxide (20 ml). After stirring vigorously at 0° C. for 45 minutes the reaction mixture was allowed to warm to room temperature over a 2 hour period then extracted with diethyl ether (3×200 ml). The combined organic layers were washed with brine (1×100 ml), dried (Na2SO4) filtered and concentrated in vacuo to leave a residue which was purified by chromatography on flash silica with 30% ethyl acetate in hexane as eluent to give the title compound (2.3 g) as a colourless oil. δ (CDCl3, 360 MHz) 3.83 (2H, d, J=7.9 Hz, CH2OH), 4.13 (1H, t, J=7.9 Hz, CH--CH2OH), 6.78 (1H, d, J=12 Hz, CHA =CHB), 6.87 (1H, d, J=12 Hz, CHA =CHB), 7.17-7.50 (7H, m, ArH). m/e 302 and 300 (M+).

reactant | 3-bromo-5-methylene-dibenzo[a,d]cycloheptene | 3.8 g | BrC=1C=CC2=C(C(C3=C(C=C2)C=CC=C3)=C)C1 | C16H11Br
reactant | 9-borabicyclo [3.3,1 ]nonane | C12CCCC(CCC1)B2 | C8H15B
reactant | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
product | 3-Bromo-5-hydroxymethyl-dibenzo[a,d]cycloheptene | 2.3 g | BrC=1C=CC2=C(C(C3=C(C=C2)C=CC=C3)CO)C1 | C16H13BrO
